US07666888B2
1-{[3-(3-chloro-4-methoxyphenyl)isoxazol-4-yl]carbonyl}-3-(4-fluoro-3-methylphenyl)pyrrolidin-3-ol
A solution of 3-(3-chloro-4-methoxyphenyl)isoxazole-4-carboxylic acid (10 mg, 0.04 mmol), N-ethyl-N-isopropylpropan-2-amine (14 μL, 0.08 mmol, 2 equ.) and TBTU (15 mg, 0.046 mmol, 1.2 equ.) in DMF (0.3 mL) was added to 3-(4-fluoro-3-methylphenyl)pyrrolidin-3-ol hydrochloride (9 mg, 0.04 mmol). After 1 h at rt the crude product was purified by RP-HPLC, evaporated and dried in vacuum to yield the title compound (7 mg). MS (ESI, pos. ion) m/z: calcd for C22H20ClFN2O4: 430.1096, found 430.1094.

reactant | 3-(3-chloro-4-methoxyphenyl)isoxazole-4-carboxylic acid | 0.04 mmol, 10 mg | ClC=1C=C(C=CC1OC)C1=NOC=C1C(=O)O | C11H8ClNO4
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.08 mmol, 14 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.046 mmol, 15 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 3-(4-fluoro-3-methylphenyl)pyrrolidin-3-ol hydrochloride | 0.04 mmol, 9 mg | Cl.FC1=C(C=C(C=C1)C1(CNCC1)O)C
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | 1-{[3-(3-chloro-4-methoxyphenyl)isoxazol-4-yl]carbonyl}-3-(4-fluoro-3-methylphenyl)pyrrolidin-3-ol | 7 mg | ClC=1C=C(C=CC1OC)C1=NOC=C1C(=O)N1CC(CC1)(O)C1=CC(=C(C=C1)F)C | C22H20ClFN2O4
